US07122665B2
6-Amino-2-[2-(pyridin-2-yloxy)-ethoxy]-4-morphlinopyrimidine (1.90 g, 6.00 mmol, 1.0 equiv.) was dissolved in 8 mL HOAc, and 8 mL H2O was added. The solution was cooled to 0° C., and NaNO2 (0.414 g, 6.00 mmol, 1.0 equiv.) was added. The reaction mixture was stirred at 0° C. for 1 hour. Water (20 mL) was added to dilute the slurry, and the solid was collected by filtration, washed with water, EtOAc (2 mL), then dried to yield 6-amino-2-[2-(pyridin-2-yloxy)-ethoxy]-4-morphlino-5-nitroso-pyrimidine (1.47 g, 4.25 mmol, 85% yield) as blue solid. The nitroso compound (1.385 g, 4.00 mmol, 1.0 equiv.) was treated with 5 mL water and enough 2 N HCl so that a clear dark blue solution was formed. Na2S2O4 (2.79 g, 16.00 mmol, 4.0 equiv.) was added in three portions, and the solution was stirred at room temperature for 1 hour. The resulting clear yellow solution was carefully neutralized with cold 2 M NaOH solution, and subjected to EtOAc extraction. 5,6-Diamino-2-[2-(pyridin-2-yloxy)-ethoxy]-4-morphlinopyrimidine (0.80 g, 2.41 mmol, 60%) was obtained as light yellow solid after usual workup.

reactant | 6-Amino-2-[2-(pyridin-2-yloxy)-ethoxy]-4-morphlinopyrimidine | 6.00 mmol, 1.90 g, 1.0 equiv. | NC1=CC(=NC(=N1)OCCOC1=NC=CC=C1)N1CCOCC1 | C15H19N5O3
reactant | H2O | 8 mL | O | H2O
reactant | NaNO2 | 6.00 mmol, 0.414 g, 1.0 equiv. | N(=O)[O-].[Na+]
reactant | Water | 20 mL | O | H2O
solvent | HOAc | 8 mL | CC(=O)O | C2H4O2
product | 6-amino-2-[2-(pyridin-2-yloxy)-ethoxy]-4-morphlino-5-nitroso-pyrimidine | 4.25 mmol, 1.47 g, 85% yield | NC1=C(C(=NC(=N1)OCCOC1=NC=CC=C1)N1CCOCC1)N=O | C15H18N6O4
